US05026865
2,5-Bis(3-dodecylthio-2-hydroxypropylthio)-1,3,4-thiadiazole
In a reaction flask, isopropanol (100 ml),dodecylmercaptan (30.66 grams, 0.151 moles),and sodium hydroxide pellets(6.1 grams, 0.153 moles) were mixed with stirring. In another flask 2,5-dimercapto-1,3,4-thiadiazole (11.3 grams, 0.076 moles) and epichlorohydrin(14 grams, 0.151 moles) were reacted in isopropanol(100 ml) by heating to reflux temperature. The reacted mixture was added to the reaction flask and refluxed for 0.5 hours. The solvent was stripped off to produce a yellow oil product characterized by the infrared absorption bands at 3400, 2900, 1680, 1460, 1380, 1040, and 720 cm-1.

reactant | dodecylmercaptan | 0.151 moles, 30.66 grams | C(CCCCCCCCCCC)S | C12H26S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2,5-dimercapto-1,3,4-thiadiazole | 0.076 moles, 11.3 grams | SC=1SC(=NN1)S | C2H2N2S3
reactant | epichlorohydrin | 0.151 moles, 14 grams | C(Cl)C1CO1 | C3H5ClO
reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 2,5-Bis(3-dodecylthio-2-hydroxypropylthio)-1,3,4-thiadiazole | C(CCCCCCCCCCC)SCC(CSC=1SC(=NN1)SCC(CSCCCCCCCCCCCC)O)O | C32H62N2O2S5
